US04797417
Sodium (0.64 g) was added to ethanol (30 ml) at ambient temperature, followed by dimethyl malonate (3.2 ml), and the resulting mixture was stirred at ambient temperature for 15 minutes. A solution of (2R*, 3R*)-3-[3-(t-butyldiphenylsilyloxy)propyl]-2phenyloxirane (2.90 g) in ethanol (30 ml) was added thereto. After being refluxed for 12 hours, the reaction mixture was evaporated in vacuo and the residue was dissolved in ethyl acetate. The organic solution was washed with lN hydrochloric acid, water and brine successively, dried over magnesium sulfate, and evaporated in vacuo. The residue was chromatographed on silica gel (150 g) eluting with a mixture of hexane and ethyl acetate (50:1 to 10:1) to give ethyl (4R*,5R*)5-[3-(t-butyldiphenylsilyloxy)propyl]-2-oxo-4-phenyltetrahydro-3-furancarboxylate (2.64 g).

reactant | Sodium | 0.64 g | [Na] | Na
reactant | dimethyl malonate | 3.2 ml | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 3-[3-(t-butyldiphenylsilyloxy)propyl]-2phenyloxirane | 2.90 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCCC1C(O1)C1=CC=CC=C1 | C27H32O2Si
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl (4R*,5R*)5-[3-(t-butyldiphenylsilyloxy)propyl]-2-oxo-4-phenyltetrahydro-3-furancarboxylate | 2.64 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC[C@@H]1[C@H](C(C(O1)=O)C(=O)OCC)C1=CC=CC=C1 | C32H38O5Si
